US08048909B2
2,2,2-Trifluoro-N-({1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl)ethanamine trifluoroacetate
A solution (15 mL) of 2,2,2-trifluoro-N-({1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl)acetamide (300 mg) in tetrahydrofuran was cooled at 0° C., 1 mol/L tetrahydrofuran solution of borane (2.84 mL) was added, and the mixture was stirred at room temperature for 5 hr and then at 50° C. for 3 hr. Water was added to the reaction mixture, the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→2:1), and the obtained oil was purified by preparative HPLC. The purified product was concentrated under reduced pressure, and the crystals precipitated during the process were collected by filtration. The crystals were recrystallized from ethyl acetate to give the title compound as colorless crystals (yield 70 mg, 20%).

reactant | 2,2,2-trifluoro-N-({1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl)acetamide | 15 mL, 300 mg | FC(C(=O)NCC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C)(F)F | C20H17F3N2O3S
reactant | borane | 2.84 mL | B | BH3
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mol/L | O1CCCC1 | C4H8O
product | 2,2,2-Trifluoro-N-({1-[(4-methylphenyl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl)ethanamine trifluoroacetate | yield 70 mg, 20% | FC(C(=O)O)(F)F.FC(CNCC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C)(F)F | InChI=1S/C20H19F3N2O2S.C2HF3O2/c1-15-7-9-18(10-8-15)28(26,27)25-13-16(12-24-14-20(21,22)23)11-19(25)17-5-3-2-4-6-17;3-2(4,5)1(6)7/h2-11,13,24H,12,14H2,1H3;(H,6,7)
